US07153863B2
To a cold (0° C.) solution of 2-fluoro-4-pent-1-ynylpyridine (650 mg, 3.98 mmol) in acetonitrile (15 mL) was added 1,8-diazabicyclo[5.4.0]undec-7-ene (DBU) (0.89 mL, 5.97 mmol) and 1-aminopyridinium iodide (974 mg, 4.38 mmol). The resultant dark solution was allowed to warm to room temperature and stirred vigorously. An additional equivalent of 1,8-diazabicyclo[5.4.0]undec-7-ene and 1-aminopyridinium iodide were added after 18 and again after 36 hours. Water was added and the mixture concentrated in vacuo. The residue was partitioned between water and ether. The organic layer was washed with brine. The aqueous layer was extracted with ether and the combined organics were dried over magnesium sulfate. Filtration and concentration followed flash chromatography on silica gel (4:1 to 3:1 hexane-ethyl acetate) provided 3-(2-fluoropyridin-4-yl)-2-propylpyrazolo[1,5-a]pyridine (765 mg, 75%) as an off-white solid. 1H NMR (CDCl3) δ 8.48 (d, 1H), 8.30 (d, 1H), 7.64 (d, 1H), 7.32–7.23 (m, 2H), 7.04 (s, 1H), 6.86 (t, 1H), 2.95 (t, 2H), 1.82 (m, 2H), 1.03 (t, 3H); 19F NMR (CDCl3) δ −68.48; MS m/z 256 (M+1).

reactant | 2-fluoro-4-pent-1-ynylpyridine | 3.98 mmol, 650 mg | FC1=NC=CC(=C1)C#CCCC | C10H10FN
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 5.97 mmol, 0.89 mL | N12CCCCCC2=NCCC1 | C9H16N2
reactant | 1-aminopyridinium iodide | 4.38 mmol, 974 mg | [I-].N[N+]1=CC=CC=C1
reactant | Water | O | H2O
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
product | 3-(2-fluoropyridin-4-yl)-2-propylpyrazolo[1,5-a]pyridine | 765 mg, 75% | FC1=NC=CC(=C1)C=1C(=NN2C1C=CC=C2)CCC | C15H14FN3
